US09352049B2
To a solution of paclitaxel (38 mg; 0.044 mmol) and imidazole (38 mg; 0.0556 mMol) in 0.3 mL of dry DMF under nitrogen, was added a crude sample of benzyl 2-((1-chlorosilinan-1-yl)oxy)acetate of undetermined titre. A total of 135 mg of crude silyl chloride was added in 3 portions over a 21 hour period. After stirring for another hour, the reaction was concentrated under reduced pressure and the residue was directly purified via column chromatography to give 32.8 mg of (2aR,4S,4aS,6R,9S,11S,12S,12bS)-9-(((2R,3S)-3-benzamido-2-((1-(2-(benzyloxy)-2-oxoethoxy)silinan-1-yl)oxy)-3-phenylpropanoyl)oxy)-12-(benzoyloxy)-4,11-dihydroxy-4a,8,13,13-tetramethyl-5-oxo-2a,3,4,4a,5,6,9,10,11,12,12a,12b-dodecahydro-1H-7,11-methanocyclodeca[3,4]benzo[1,2-b]oxete-6,12b-diyl diacetate (66%) as a colorless glassy solid. 1H NMR (500 MHz, CDCl3) δ 8.13-8.12 (m, 2H), 7.78-7.77 (m, 2H), 7.61 (dddd, J=1.4, 1.4, 7.4, 7.4 Hz, 1H), 7.53-7.50 (m, 2H), 7.46 (dddd, J=1.4, 1.4, 7.4, 7.4 Hz, 1H), 7.41-7.31 (m, 12H), 7.28-7.24 (m, 1H), 6.27 (s, 1H), 6.24 (dd, J=9.4, 9.4 Hz, 2H), 5.75 (dd, J=8.7, 3.6 Hz, 1H), 5.67 (d, J=7.2 Hz, 1H), 5.18-5.09 (m, 2H), 5.04 (d, J=3.6 Hz, 1H), 4.96 (dd, J=9.7, 2.0 Hz, 1H), 4.43 (ddd, J=10.8, 6.5, 4.2 Hz, 1H), 4.30 (d, J=8.4 Hz, 1H), 4.20 (d, J=8.5 Hz, 1H), 4.20-4.11 (m, 2H), 3.80 (d, J=6.9 Hz, 1H), 2.54 (ddd, J=14.8, 9.6, 6.4 Hz, 1H), 2.48 (s, 3H), 2.31 (dd, J=15.3, 9.5 Hz, 1H), 2.22 (s, 3H), 2.03 (dd, J=15.7, 8.8 Hz, 1H) 1.91-1.82 (m, 4H), 1.68 (s, 3H), 1.65-1.52 (m, 4H), 1.37-1.27 (m, 2H), 1.23 (s, 3H), 1.12 (s, 3H), 0.72-0.67 (m, 1H), 0.65-0.58 (m, 2H), 0.48 (ddd, J=14.6, 9.1, 5.2 Hz, 1H). MS (ESI+) m/z 1138.4 (M+Na); HPLC 80% (AUC), tR 22.11 min (Method A).

reactant | paclitaxel | 0.044 mmol, 38 mg | CC1=C2[C@H](C(=O)[C@@]3([C@H](C[C@@H]4[C@]([C@H]3[C@@H]([C@@](C2(C)C)(C[C@@H]1OC(=O)[C@@H]([C@H](C=5C=CC=CC5)NC(=O)C=6C=CC=CC6)O)O)OC(=O)C=7C=CC=CC7)(CO4)OC(=O)C)O)C)OC(=O)C | C47H51NO14
reactant | imidazole | 0.0556 mMol, 38 mg | N1C=NC=C1 | C3H4N2
reactant | benzyl 2-((1-chlorosilinan-1-yl)oxy)acetate | Cl[Si]1(CCCCC1)OCC(=O)OCC1=CC=CC=C1 | C14H19ClO3Si
reactant | silyl chloride | 135 mg | [SiH3]Cl | ClH3Si
solvent | DMF | 0.3 mL | CN(C)C=O | C3H7NO
product | (2aR,4S,4aS,6R,9S,11S,12S,12bS)-9-(((2R,3S)-3-benzamido-2-((1-(2-(benzyloxy)-2-oxoethoxy)silinan-1-yl)oxy)-3-phenylpropanoyl)oxy)-12-(benzoyloxy)-4,11-dihydroxy-4a,8,13,13-tetramethyl-5-oxo-2a,3,4,4a,5,6,9,10,11,12,12a,12b-dodecahydro-1H-7,11-methanocyclodeca[3,4]benzo[1,2-b]oxete-6,12b-diyl diacetate | 32.8 mg, 66% | C(C)(=O)O[C@H]1C([C@]2(C([C@]3([C@H](OC3)C[C@@H]2O)OC(C)=O)[C@@H]([C@@]2(C[C@@H](C(=C1C2(C)C)C)OC([C@@H]([C@H](C2=CC=CC=C2)NC(C2=CC=CC=C2)=O)O[Si]2(CCCCC2)OCC(=O)OCC2=CC=CC=C2)=O)O)OC(C2=CC=CC=C2)=O)C)=O | C61H69NO17Si
